US04788206
As described in Example 99, (2E,4Z)-5-cyclopropyl-5-(4-methoxyphenyl)-2,4-pentadienoic acid methyl ester (3.1 g) was saponified in a refluxing mixture of methanol (15 mL) and 2N NaOH (15 mL). After 3 hours the reaction was worked up in the usual way, and the crude was crystallized from 2-propanolhexane to give 2 g of (2E,4Z)-5-cyclopropyl-5-(4-methoxyphenyl)-2,4-pentadienoic acid, mp 154°-155.5° C.

reactant | (2E,4Z)-5-cyclopropyl-5-(4-methoxyphenyl)-2,4-pentadienoic acid methyl ester | 3.1 g | COC(\C=C\C=C(/C1=CC=C(C=C1)OC)\C1CC1)=O | C16H18O3
reactant | NaOH | 2N, 15 mL | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | (2E,4Z)-5-cyclopropyl-5-(4-methoxyphenyl)-2,4-pentadienoic acid | 2 g | C1(CC1)/C(=C/C=C/C(=O)O)/C1=CC=C(C=C1)OC | C15H16O3
